US07776882B2
To an ice cold solution of 4-(2-amino-6-phenoxy-quinoline-3-yl)-4-(S)-cyclohexyl-butan-1-ol (0.44 g, 1.12 mmol) in acetone (15 mL) was added Jones reagent (0.7 M solution in a 0.12:1 mixture of concentrated H2SO4:H2O, 16.0 mL, 11.3 mmol) dropwise, and the reaction mixture was stirred for 3.0 h. The excess reagent was quenched by adding isopropyl alcohol, and the resulting slurry was filtered through Celite®. The crude material obtained by removal of the solvent was purified by silica gel column chromatography using 30% MeOH in CHCl3 to yield 4-(2-amino-6-phenoxy-quinoline-3-yl)-4-(S)-cyclohexyl-butyric acid.

reactant | 4-(2-amino-6-phenoxy-quinoline-3-yl)-4-(S)-cyclohexyl-butan-1-ol | 1.12 mmol, 0.44 g | NC1=NC2=CC=C(C=C2C=C1[C@@H](CCCO)C1CCCCC1)OC1=CC=CC=C1 | C25H30N2O2
reactant | Jones reagent | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
reactant | H2O | O | H2O
solvent | acetone | 15 mL | CC(=O)C | C3H6O
product | 4-(2-amino-6-phenoxy-quinoline-3-yl)-4-(S)-cyclohexyl-butyric acid | NC1=NC2=CC=C(C=C2C=C1[C@@H](CCC(=O)O)C1CCCCC1)OC1=CC=CC=C1 | C25H28N2O3
